US09238640B2
To a solution of 2-amino-4,6-dimethoxy-benzamide (0.80 g, 4.00 mmol) and 4-(3-hydroxy-propyl)-3,5-dimethyl-benzaldehyde (0.98 g, 5.1 mmol) in N,N-dimethylacetamide (15 mL) were added NaHSO3 (58.5 wt %, 0.80 g, 4.40 mmol) and p-TSA (0.155 g, 0.81 mmol) and the reaction mixture was heated at 115° C. for 16 hours, then cooled to room temperature. N,N-dimethylacetamide was removed under reduced pressure. The residue was diluted with water (50 mL), stirred for 30 minutes, and then filtered and washed with water. The crude compound was purified by column chromatography (silica gel 230-400 mesh; 5% methanol in dichloromethane as eluent) to give 2-[4-(3-hydroxy-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one as an off-white solid. Yield: 1.10 g (73%).

reactant | 2-amino-4,6-dimethoxy-benzamide | 4.00 mmol, 0.80 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(3-hydroxy-propyl)-3,5-dimethyl-benzaldehyde | 5.1 mmol, 0.98 g | OCCCC1=C(C=C(C=O)C=C1C)C | C12H16O2
reactant | NaHSO3 | 4.40 mmol, 0.80 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 0.81 mmol, 0.155 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(3-hydroxy-propyl)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | OCCCC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C21H24N2O4
